US04816065
While maintaining a temperature of 20°-25° C., 1.7 g (0.0040 mole) of 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide was added to 4.0 mL of stirred, concentrated sulfuric acid. To this was added a solution of 0.40 g (0.0055 mole) of sodium nitrite dissolved in 6 mL of water, while continuing to maintain a temperature of about 20° C. After complete addition, the mixture was stirred at 20° C. for 30 minutes. This mixture was added through a glass tube to the bottom of a stirred, refluxing mixture of 30.0 g (0.120 mole) of copper (II) sulfate pentahydrate, 90 mL of water and 30 mL of xylene. After complete addition the mixture was refluxed for one hour. The mixure was cooled, and the organic phase was extracted with an aqueous, sodium hydroxide solution (6.0 g of sodium hydroxide dissolved in 250 mL of water). The basic extract was acidified with concentrated hydrochloric acid and was extracted with diethyl ether. The organic extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to yield 0.6 g of 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-2,3,4,5-tetrahydrophthalimide as an oil.

reactant | 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | 0.0040 mole, 1.7 g | NC1=CC=C(OC=2C(=CC(=C(C2)C23C(=O)NC(C2CCCC3)=O)F)Cl)C=C1 | C20H18ClFN2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.0055 mole, 0.40 g | N(=O)[O-].[Na+]
reactant | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | 6 mL | O | H2O
reactant | water | 90 mL | O | H2O
catalyst | copper (II) sulfate pentahydrate | 0.120 mole, 30.0 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-2,3,4,5-tetrahydrophthalimide | 0.6 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)O)C12C(=O)NC(C1CCCC2)=O)F | C20H17ClFNO4
